US09193744B2
To a vessel containing pyridine (0.886 g, 11.2 mmol) was added rac-(3S,4aS,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazol-3-ol (15, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.100 g, 0.224 mmol), and thionyl chloride (0.480 g, 4.03 mmol). The reaction was warmed to about 80° C. for about 3 h. The reaction was cooled to rt, slowly quenched with sat. aq. NaHCO3 (10 mL) and then extracted with EtOAc (3×10 mL). The combined organics were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified on silica gel (12 g) using a gradient of 0-30% EtOAc in heptane. The product fractions were concentrated to give about a 2.5:1 mixture of rac-(4aS,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,4,4a,5,6,7,9,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazole and rac-(4aS,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,4a,5,6,7,9,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazole as a colorless oil (0.048 g, 50% yield). LC/MS, method 3, Rt=3.21 min.; MS m/z: 429 (M+H)+. Potassium osmate dihydrate (0.081 g, 0.22 mmol) and 4-methylmorpholine N-oxide (0.771 g, 6.58 mmol) were added sequentially, each in one portion, to a biphasic solution of a mixture of rac-(4aS,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,4,4a,5,6,7,9,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazole and rac-(4aS,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,4a,5,6,7,9,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazole (0.940 g, 2.194 mmol), THF (15 mL), and water (7.5 mL). After about 20 h, potassium osmate dihydrate (0.081 g, 0.22 mmol) and 4-methylmorpholine N-oxide (0.771 g, 6.58 mmol) were added sequentially, each in one portion. The reaction was warmed to about 40° C. for about 30 h. The reaction was allowed to cool to rt and after about 3 days at rt, water (300 mL) was added. The solution was extracted with DCM (2×200 mL). The combined organics were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified on silica gel (120 g) using a gradient of 0-15% EtOAc in DCM. The product fractions were concentrated under reduced pressure to afford rac-(3R,4S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3,4-diol (52, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.520 g, 51% yield) LC/MS, method 3, Rt=2.71 min.; MS m/z: 463 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.27 (s, 1H), 7.85-7.78 (m, 2H), 7.71 (s, 1H), 7.60 (s, 1H), 7.44-7.37 (m, 2H), 5.48 (s, 1H), 4.68 (d, J=9.0 Hz, 1H), 3.30-3.27 (m, 1H), 3.12-2.98 (m, 2H), 2.46-2.36 (m, 1H), 2.28-2.16 (m, 2H), 2.15-2.04 (m, 1H), 1.96-1.77 (m, 3H), 1.77-1.42 (m, 4H), 0.59 (t, J=7.3 Hz, 3H) and rac-(2R,3S,4aS,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-2,3-diol (51, R1=4-Fluorophenyl, R2=Ethyl, R3=Trifluoromethyl) (0.280 g, 27%, yield) LC/MS, method 3, Rt=2.74 min.; MS m/z: 463 (M+H)+. 1H NMR (400 MHz, DMSO) δ 8.31 (s, 1H), 7.87-7.75 (m, 3H), 7.59 (s, 1H), 7.45-7.36 (m, 2H), 5.52 (s, 1H), 4.96 (d, J=6.6 Hz, 1H), 4.11-3.99 (m, 1H), 3.09-2.93 (m, 2H), 2.56-2.51 (m, 1H), 2.35-2.17 (m, 2H), 2.16-2.03 (m, 1H), 1.83-1.71 (m, 1H), 1.71-1.58 (m, 2H), 1.54-1.20 (m, 4H), 0.61 (t, J=7.3 Hz, 3H).

reactant | 4-methylmorpholine N-oxide | 6.58 mmol, 0.771 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | rac-(4aS,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,4,4a,5,6,7,9,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazole | C(C)C12C(CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)CC(=CC2)C(F)(F)F | C25H24F4N2
reactant | rac-(4aS,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,4a,5,6,7,9,12b-octahydrobenzo[6,7]cyclohepta[1,2-f]indazole | 2.194 mmol, 0.940 g | C(C)C12C(CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C=C(CC2)C(F)(F)F | C25H24F4N2
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | 4-methylmorpholine N-oxide | 6.58 mmol, 0.771 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | water | 300 mL | O | H2O
solvent | water | 7.5 mL | O | H2O
product | rac-(3R,4S,4aR,12bR)-12b-ethyl-9-(4-fluorophenyl)-3-(trifluoromethyl)-1,2,3,4,4a,5,6,7,9,12b-decahydrobenzo[6,7]cyclohepta[1,2-f]indazole-3,4-diol | 51% yield | C(C)C12C(CCCC=3C1=CC=1C=NN(C1C3)C3=CC=C(C=C3)F)C(C(CC2)(O)C(F)(F)F)O | C25H26F4N2O2
